US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(1-methyl-1H-pyrrol-2-yl)-imidazo[1,2-b]pyridazine
A THF solution (10 mL) of N-methylpyrrole (Aldrich, 800 μL, 9.0 mmol) is cooled to −78° C. under N2 then treated with tert-BuLi (1.7 M in pentane, 5.3 mL, 9.0 mmol). The solution is warmed to room temperature for 30 minutes then cooled to −78° C. and treated with ZnCl2 (Aldrich, 0.5 M in THF, 18 mL, 9.0 mmol). The resulting mixture is warmed to room temperature and treated with a THF slurry (5 mL) containing 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.02 gm, 3.0 mmol) and PdCl2(dppf)-CH2Cl2 complex (Aldrich, 140 mg, 0.17 mmol). The mixture is heated to 60° C. overnight, then poured into sat'd aq NH4Cl (50 mL) and extracted with diethyl ether (75 mL). The organic extract is ished with aq. brine, dried over Na2SO4, filtered, and concentrated. The crude product is purified by chromatography using hexane-ethyl acetate gradient (100% hexane to 20% ethyl acetate in hexane) to elute the title compound (407.5 mg, 46% yield) as an oil.

reactant | N-methylpyrrole | 9.0 mmol, 800 μL | CN1C=CC=C1 | C5H7N
reactant | tert-BuLi | 9.0 mmol, 1.7 M, 5.3 mL | [Li]C(C)(C)C
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 3.0 mmol, 1.02 gm | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
catalyst | ZnCl2 | 9.0 mmol, 0.5 M, 18 mL | [Cl-].[Cl-].[Zn+2]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(1-methyl-1H-pyrrol-2-yl)-imidazo[1,2-b]pyridazine | 407.5 mg, 46% yield | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2N(C=CC2)C | C18H24N4
